US08471005B2
m-Nitrobenzoic acid (2.00 g, 0.0120 mol), piperazine, 1-methyl- (1.44 g, 0.0144 mol), N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (2.29 g, 0.0120 mol) and 1-Hydroxybenzotriazole (0.40 g, 0.0030 mol) were dissolved in Tetrahydrofuran (35 mL, 0.43 mol) and the reaction was allowed to stir overnight at room temperature. The reaction mixture was poured over saturated sodium bicarbonate, and organics were extracted with ethyl acetate/dichloromethane. Combined organics were dried over sodium sulfate, filtered and reduced en vacuo. The crude mixture was purified by Isco flash column chromatography (Hexane/Ethyl Acetate). Combined fractions were reduced en vacuo to afford 2.46 g of (4-Methyl-piperazin-1-yl)-(3-nitro-phenyl)-methanone. (M+H)=250.6.

reactant | m-Nitrobenzoic acid | 0.0120 mol, 2.00 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.0120 mol, 2.29 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-Hydroxybenzotriazole | 0.0030 mol, 0.40 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | Tetrahydrofuran | 0.43 mol, 35 mL | O1CCCC1 | C4H8O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (4-Methyl-piperazin-1-yl)-(3-nitro-phenyl)-methanone | 2.46 g | CN1CCN(CC1)C(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C12H15N3O3
